US06620825B1
[5-Phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine
To a mixture of 2-bromo-2-phenyl-1-(3-pyridyl)ethanone hydrobromide (2.00 g) and thiourea (432 mg) in acetonitrile (30 mL), was added triethylamine (0.80 mL) dropwise and the resulting mixture was stirred at 80° C. for 3 h. The solvent was removed under reduced pressure and an aqueous saturated solution of sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic phases were washed with water, dried and concentrated under reduced pressure to give the amorphous title compound (1.10 g, yield 84%).

reactant | 2-bromo-2-phenyl-1-(3-pyridyl)ethanone hydrobromide | 2.00 g | Br.BrC(C(=O)C=1C=NC=CC1)C1=CC=CC=C1
reactant | thiourea | 432 mg | NC(=S)N | CH4N2S
reactant | triethylamine | 0.80 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | [5-Phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine | 1.10 g, yield 84% | C1(=CC=CC=C1)C1=C(N=C(S1)N)C=1C=NC=CC1 | C14H11N3S
